Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
AMS
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ h/o back pain, hypothyroidism who presents with
altered mental status.  At baseline, Ms. ___ reportedly lives
alone (but close to a male friend) in ___ and usually
is able to perform IADLs, drive to do shopping, etc.  She 
reports
that she received back injections (? cortisone) at a pain clinic
in ___ (___ in 
___,
___) in ___.  Four days afterwards, she developed increasing
weakness, inability to ambulate, and slowness of movement.  She
was also reportedly altered with a flat affect, difficulty
speaking.  She went to the ___ ED x2 - and was told
that she simply needed some time to recover and rest - and was
not admitted.
    Her grandson, out of concern, had her flown to ___ ~ ___
prior to admission.  He had plans to set up with a new PCP and
obtain new appts, however, she reported vision changes this
morning and so her grandson brought her to the ED for an
evaluation.
   in th ED, vitals were stable.  There was no focal 
neurological
deficits. Moving all extremities although much slower than her
baseline percent. Alert and oriented ×3.  Head CT, CXR, U/A were
all unremarkable.  TSH was normal.  Urine opiates was positive
(she takes vicodin for pain), but Narcan iV x1 had no effect. 
She was admitted for further mgmt. 

ROS: R hip pain.  per HPI, denies fever, chills, night sweats,
rhinorrhea, congestion, sore throat, cough, shortness of breath,
chest pain, abdominal pain, nausea, vomiting, diarrhea,
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.  
A
10 pt review of sxs was otherwise negative.

 
Past Medical History:
# HTN
# hypothyroidism
# chronic LBP 

 
Social History:
___
Family History:
+Depression 
 
Physical Exam:
Admission physical exam
EXAM: 
Vital Signs: 97.3  ___  18  98% on RA  BS 98
GEN: NAD, well-appearing, responsive
EYES: PERRL, EOMI, conjunctiva clear, anicteric, flat effect
ENT: moist mucous membranes, no exudates 
NECK: supple 
CV: RRR s1s2 nl, no m/r/g
PULM: CTA, no r/r/w 
GI: normal BS, NT/ND, no HSM  
EXT: warm, no c/c/e, no tremor but with cogwheel rigidity
SKIN: no rashes 
NEURO: alert, oriented x 3, answers ? appropriately, follows
commands, non focal
PSYCH: appropriate
ACCESS: PIV
FOLEY: absent

Discharge physical exam
VS T98.7, BP 145/84, HR 60, RR 18, o2 96RA
GEN: no distress, well appearing, alert and interactive, able to 
answer questions and make eye contact
EYES: nc/at, moist mucous membranes, no oropharyngeal lesion or 
exudate
NECK: supple, no lad
CV: RRR, s1/2, no m/r/g
PULM: cta, no w/r/r
GI: soft, NT, ND, +BS
EXT: no edema or cyanosis 
SKIN: warm, dry, no rash
NEURO/PSYCH: aaox3, answers questions appropriately, more 
interactive and alert, pleasant 
 
Pertinent Results:
___ 06:40AM BLOOD WBC-7.0 RBC-3.88* Hgb-11.9 Hct-37.5 
MCV-97 MCH-30.7 MCHC-31.7* RDW-12.3 RDWSD-43.8 Plt ___
___ 06:40AM BLOOD Glucose-70 UreaN-12 Creat-0.8 Na-144 
K-4.2 Cl-103 HCO3-24 AnGap-17
___:08PM BLOOD TSH-1.2

CT head ___
IMPRESSION: 
  
  
1. No acute intracranial abnormality or evidence of large 
chronic infarction. 
2. Periventricular white-matter hypodensities are nonspecific, 
but likely 
represent sequela of chronic small vessel disease. 

CXR ___
FINDINGS:  
  
AP upright and lateral views the chest provided demonstrate mild 
cardiomegaly. 
No signs of congestion or edema.  Faint right basal atelectasis 
noted.  No 
signs of pneumonia.  No large effusion or pneumothorax.  
Mediastinal contour 
is normal.  Bony structures are intact.  No free air below the 
right 
hemidiaphragm. 
  

EKG ___
Sinus tach @ ___ changes 
 
Brief Hospital Course:
___ h/o HTN, back pain, hypothyroidism who presents with altered 
mental status.

# Altered mental status 
# Weakness
-Her presentation is consistent with catatonia. Psychiatry and 
neurology saw the patient as well. Outside records were obtained 
which indicated that she has a history of depression with 
psychotic features, and had been put on fluphenazine which may 
have been causing some parkinsonism. When she first presented, 
her encephalopathy/AMS may have been related to polypharmacy; 
she does not know all of her medications and the patient's 
family reports she has a bag of medications that is not 
consistent with her meds list. It is unclear if she had excess 
sedating or interacting medications in her body that cleared but 
this is likely what triggered her presentation. She recently 
relocated from ___ to ___ as her grandson did not feel she was 
improving. There was concern that a spinal injection ___ 
may have caused some trauma/injury to the back and caused an 
encephalitis like picture but she remained afebrile/no wbc count 
and had no signs or symptoms of infection, and her mentation 
improved with cessation of narcotics and anti psychotics. 
-She has been tried on valium 5mg po BID and remeron 30mg qhs 
and has done very well on this regimen which is what she should 
stay on
-d/c fluphenazine and other narcotics, minimize even tramadol
-patient is much more interactive and alert
-psych follow up will depend upon who she elects as her PCP, as 
she is out of network she cannot follow at the ___ psychiatry 
clinic but if she chooses a nearby PCP then this can be 
arranged. They are talking about relocating her permanently to 
___, and the family will make this decision over time.
-Labwork and vitals have been stable, should have routine f/u 
with PCP

___ and hip pain
-Tylenol, tramadol prn
-avoid opiates, per Psych discussion with PCP she was thought to 
have overuse of opiates so would like to avoid 
-Rx for tramadol provided for #10 tablets, 50mg. ___ 
reviewed however no link between ___ and ___ so unable to see what 
she has been filling. Has not taken it much in the hospital. 
-___ -> rehab, also benefiting from OT 

#Anemia - noted on labs, hemodynamically stable, seems chronic 
in nature. Iron studies in am. No signs of bleeding. 

#HTN - c/w nifedipine
#Hypothyroid - c/w synthroid 
#Presumed GERD - continue ppi 

#Code status - full, presumed
#Dispo - d/c to rehab today, to ___ in ___ 
 

___, MD, ___ ___
Hospital Medicine
___

Time spent: 55 minutes 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Diazepam Dose is Unknown  PO Q8H:PRN pain 
2. HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN Pain - 
Mild 
3. Omeprazole 20 mg PO BID 
4. NIFEdipine (Extended Release) 60 mg PO DAILY 
5. TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
6. Potassium Chloride 20 mEq PO BID 
7. Levothyroxine Sodium 25 mcg PO DAILY 
8. Fluphenazine 5 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  Docusate Sodium 100 mg PO BID:PRN constipation  
3.  Mirtazapine 30 mg PO QHS  
4.  Diazepam 5 mg PO BID 
RX *diazepam 5 mg 1 tab by mouth twice a day Disp #*10 Tablet 
Refills:*0 
5.  Levothyroxine Sodium 25 mcg PO DAILY  
6.  NIFEdipine (Extended Release) 60 mg PO DAILY  
7.  Omeprazole 20 mg PO BID  
8.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
RX *tramadol 50 mg 1 tablet(s) by mouth q6hrs prn pain Disp #*10 
Tablet Refills:*0 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Encephalopathy
Catatonia
Chronic lower back pain 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital with a change in your mental 
status, and this is attributed to a combination of your 
medications as well as catatonia. You have had no infectious 
signs or symptoms to explain your presentation, and have 
improved with an adjustment of your medications. 

When you have decided whether or not to see your PCP in ___ or 
establish care with a new PCP around ___, you may then decide 
where to have your psychiatric follow up. If you choose to 
establish care in ___ then you may follow up at the ___ 
psychiatry clinic. In the interim, you may call ___ Counseling 
if you need urgent follow up (___). 
 
Followup Instructions:
___